US09402832B2
(6-Iodobenzo[d][1,3]dioxol-5-yl)methanol (2.7 g, 9.7 mmol) in dry CH2Cl2 was added dropwise to PCC (3.1 g, 14.6 mmol) in dry CH2Cl2 at 0° C. under N2 atmosphere. The mixture was stirred at room temperature for 20 h. After reaction, the crude product was purified by column chromatography on silica gel (petroleum ether) to obtain 6-iodobenzo[d][1,3]dioxole-5-carbaldehyde (2 g, 77%) as white solid. LCMS: 277[M+1]+; 1H NMR (DMSO-d6) δ 6.20 (s, 2H), 7.28 (s, 1H), 7.61 (s, 1H), 9.79 (s, 1H).

reactant | (6-Iodobenzo[d][1,3]dioxol-5-yl)methanol | 9.7 mmol, 2.7 g | IC=1C(=CC2=C(OCO2)C1)CO | C8H7IO3
reactant | PCC | 14.6 mmol, 3.1 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-iodobenzo[d][1,3]dioxole-5-carbaldehyde | 2 g, 77% | IC=1C(=CC2=C(OCO2)C1)C=O | C8H5IO3
